US05130428
2-Methoxy-4-methylamino-6-trifluoromethyl-1,3,5-triazine
21.8 g of a 30% strength solution of sodium methanolate in methanol (0.12 mol of sodium methanolate) were added dropwise to a solution of 119.4 g (0.40 mol) of 2-methylamino-4-trichloromethyl-6-trifluoromethyl-1,3,5-triazine in 400 ml of methanol. The resulting yellow mixture was then refluxed for 1 hour during which it gradually became cloudy. After addition of a further 7.2 g of the 30% strength solution of sodium methanolate in methanol (0.04 mol of sodium methanolate), the mixture was refluxed for a further 30 minutes and, after cooling to 20° to 25° C., diluted with 150 ml of water and neutralized with 1 normal aqueous hydrochloric acid. The solvent was then removed at 40° C. under reduced pressure, after which the resulting solid was separated off and dried at 40° C. under reduced pressure for 15 hours.

reactant | sodium methanolate | C[O-].[Na+]
reactant | 2-methylamino-4-trichloromethyl-6-trifluoromethyl-1,3,5-triazine | 0.40 mol, 119.4 g | CNC1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(F)(F)F | C6H4Cl3F3N4
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
solvent | hydrochloric acid | Cl | ClH
solvent | methanol | 0.04 mol | CO | CH4O
solvent | methanol | 0.12 mol | CO | CH4O
product | 2-Methoxy-4-methylamino-6-trifluoromethyl-1,3,5-triazine | COC1=NC(=NC(=N1)NC)C(F)(F)F | C6H7F3N4O
